US07888349B2
Potassium tert-butoxide (116.1 mL of a 1M solution in tetrahydrofuran) was added to a solution of tert-butyl 2-{[tert-butyl(dimethyl)silyl]oxy}-3-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propylcarbamate (42.72 g, 84.57 mmol) in anhydrous tetrahydrofuran (THF) (50 mL), and the reaction was stirred overnight at ambient temperature and then concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting with dichloromethane:methanol in a gradient from 99:1 to 95:5) to provide 20.23 g of tert-butyl 11-{[tert-butyl(dimethyl)silyl]oxy}-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate.

reactant | Potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | tert-butyl 2-{[tert-butyl(dimethyl)silyl]oxy}-3-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propylcarbamate | 84.57 mmol, 42.72 g | [Si](C)(C)(C(C)(C)C)OC(CNC(OC(C)(C)C)=O)CN1C(=NC=2C=NC=3C=CC=CC3C21)CCl | C25H37ClN4O3Si
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | tert-butyl 11-{[tert-butyl(dimethyl)silyl]oxy}-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate | 20.23 g | [Si](C)(C)(C(C)(C)C)OC1CN(CC=2N(C3=C(C=NC4=CC=CC=C34)N2)C1)C(=O)OC(C)(C)C | C25H36N4O3Si
